US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfinylphenyl) piperidino)propyl]-2-propyl-2,3-dihydroisoindol-1-one hydrochloride.
A solution of 3-(3,4-dichlorophenyl)-3-(2-propyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.235 g) was treated with 4-(2-methylsulfinylphenyl)piperidine (0.236 g) as described in Example 8. The resulting material was purified by chromatography and was transformed into the hydrochloride to afford the title compound (0.09 g); mp 78°-85° C. (dec); MS: m/z=583(M+1); NMR(CD3OD): 0.92 (m,3), 1.5-4.3 (m,21), 4.98-5.04 (m, 1), 7.27 (m,11). Analysis for C32H36Cl2N2O2S·1.0 HCl·0.5 H2O: Calculated: C, 61.09; H, 6.08; N, 4.45; Found: C, 60.78; H, 5.68; N, 4.67.

reactant | 3-(3,4-dichlorophenyl)-3-(2-propyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.235 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)CCC | C20H19Cl2NO2
reactant | 4-(2-methylsulfinylphenyl)piperidine | 0.236 g | CS(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NOS
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfinylphenyl) piperidino)propyl]-2-propyl-2,3-dihydroisoindol-1-one hydrochloride | 0.09 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)C)C1N(C(C2=CC=CC=C12)=O)CCC | InChI=1S/C32H36Cl2N2O2S.ClH/c1-3-17-36-31(26-9-4-5-10-27(26)32(36)37)25(23-12-13-28(33)29(34)21-23)16-20-35-18-14-22(15-19-35)24-8-6-7-11-30(24)39(2)38;/h4-13,21-22,25,31H,3,14-20H2,1-2H3;1H
